US07582761B2
(a) 6-Bromo-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one.
A mixture of 2,3-diamino-5-bromopyridine (0.94 g, 5 mmol, Aldrich) and disuccinimido carbonate (1.28 g, 5 mmol, Aldrich) in chloroform (50 mL) was heated at reflux for 12 h. The solvent was removed in vacuo and the residue was purified by recrystallization from 40% EtOAc/hexane to give the title compound as a brown solid. MS (ESI, pos. ion) m/z: 214 (M+1).

reactant | 2,3-diamino-5-bromopyridine | 5 mmol, 0.94 g | NC1=NC=C(C=C1N)Br | C5H6BrN3
reactant | disuccinimido carbonate | 5 mmol, 1.28 g | C(ON1C(CCC1=O)=O)(ON1C(CCC1=O)=O)=O | C9H8N2O7
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Bromo-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | BrC=1C=C2C(=NC1)NC(N2)=O | C6H4BrN3O
